US04598079
3-(4-fluorophenyl)-4-benzylpiperazin-2-one
25 g (0.129 mol) of 3-(4-fluorophenyl)-piperazin-2-one, prepared in accordance with Example 13, are alkylated with 18.1 g (0.143 mol) of benzyl chloride, as described in Example 2.

reactant | 3-(4-fluorophenyl)-piperazin-2-one | 0.129 mol, 25 g | FC1=CC=C(C=C1)C1C(NCCN1)=O | C10H11FN2O
reactant | benzyl chloride | 0.143 mol, 18.1 g | C(C1=CC=CC=C1)Cl | C7H7Cl
product | 3-(4-fluorophenyl)-4-benzylpiperazin-2-one | FC1=CC=C(C=C1)C1C(NCCN1CC1=CC=CC=C1)=O | C17H17FN2O
